US04820727
Step (3) Preparation of N-[[2-Bromo-6-methoxy-5-(trifluoromethyl)-1-naphthalenyl]carbonyl]-N-(methoxycarbonyl)glycine, 1,1-Dimethylethyl Ester
Sodium hydride (2.61 g, 6.43 mmol) was added to a stirred solution of N-[[2-bromo-6-methoxy-5-(trifluoromethyl)-1-naphthalenyl]carbonyl]carbamic acid, methyl ester (2.61 g, 6.43 mmol) in dry THF (95 mL) at room temperature under a dry N2 atmosphere. After 1 hour, tert-butyl bromoacetate (1.56 mL, 1.5 eq) was added and the reaction mixture was heated at 60° C. for 2.5 hours. The reaction mixture was cooled to room temperature and the THF was removed. Water (100 mL) was added and the resulting solid was filtered. The resulting solid was washed with water and then petroleum ether and dried in vacuo to provide the title compound as a white solid (2.81 g, 84%). A small portion was recrystallized from petroleum ether:ether, m.p. 126°-128° C.

reactant | Sodium hydride | 6.43 mmol, 2.61 g | [H-].[Na+]
reactant | N-[[2-bromo-6-methoxy-5-(trifluoromethyl)-1-naphthalenyl]carbonyl]carbamic acid, methyl ester | 6.43 mmol, 2.61 g | BrC1=C(C2=CC=C(C(=C2C=C1)C(F)(F)F)OC)C(=O)NC(OC)=O | C15H11BrF3NO4
reactant | tert-butyl bromoacetate | 1.56 mL, 1.5 eq | BrCC(=O)OC(C)(C)C | C6H11BrO2
solvent | THF | 95 mL | C1CCOC1 | C4H8O
product | N-[[2-Bromo-6-methoxy-5-(trifluoromethyl)-1-naphthalenyl]carbonyl]-N-(methoxycarbonyl)glycine, 1,1-Dimethylethyl Ester | 2.81 g, 84% | BrC1=C(C2=CC=C(C(=C2C=C1)C(F)(F)F)OC)C(=O)N(CC(=O)OC(C)(C)C)C(=O)OC | C21H21BrF3NO6
